US07479496B2
Part B: Preparation of [(1R,2S)-2-formyl-2-(3-oxo-propyl)-cyclohexyl]-carbamic acid tert-butyl ester
A solution of dimethyl sulfoxide (16 g, 180 mmol) in dichloromethane (60 mL) was cooled to −78° C. in a cooling bath and treated dropwise with oxalyl chloride (14.2 g, 112 mmol). After the addition was complete, the solution was stirred for 30 minutes and then treated dropwise with a solution of [(1R,2S)-2-hydroxymethyl-2-(3-hydroxypropyl)-cyclohexyl]-carbamic acid tert-butyl ester (4.8 g, 16.7 mol) in dichloromethane (100 mL). After the addition was complete, the solution was stirred for 40 minutes and then treated with triethylamine (19 g, 190 mmol). The mixture was stirred for 30 minutes. The cooling bath was removed and the mixture was allowed to warm to room temperature where it stirred for 1 hour. The mixture was quenched with saturated aqueous sodium bicarbonate (100 mL). The organic phase was removed, washed successively with water and saturated aqueous sodium chloride, and then dried over sodium sulfate. The solvent was removed under vacuum to give an oil (4.75 g). 1H NMR (300 MHz, CDCl3) δ9.78 (s, 1H), 9.41 (s, 1H), 4.56 (bd, J=9 Hz, 1H), 4.05 (m, 1H), 2.60-1.30 (m, 21H).

reactant | dimethyl sulfoxide | 180 mmol, 16 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 112 mmol, 14.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | [(1R,2S)-2-hydroxymethyl-2-(3-hydroxypropyl)-cyclohexyl]-carbamic acid tert-butyl ester | 16.7 mol, 4.8 g | C(C)(C)(C)OC(N[C@H]1[C@](CCCC1)(CCCO)CO)=O | C15H29NO4
reactant | triethylamine | 190 mmol, 19 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | [(1R,2S)-2-formyl-2-(3-oxo-propyl)-cyclohexyl]-carbamic acid tert-butyl ester | 4.75 g | C(C)(C)(C)OC(N[C@H]1[C@](CCCC1)(CCC=O)C=O)=O | C15H25NO4
